US06589970B2
Bromine (83 μL, 1.61 mmol) in 15 mL of glacial HOAc was added under nitrogen dropwise over 3 h to a solution of 2-methyl-benzofuran-3-carboxylic acid (6-hydroxy-naphthalen-2-ylmethyl)-amide (537 mg, 1.62 mmol), prepared in the previous step, in 60 mL of glacial HOAc at room temperature. After the addition the reaction was stirred at room temperature for 1 h. The solvent was removed under reduced pressure and the residue partitioned between 20% MeOH in methylene chloride and 5% NaHCO3. After separating the organic layer the aqueous layer was extracted three times with 20% MeOH in methylene chloride. The combined extracts were dried (MgSO4) and the solvent removed under reduced pressure to give 2-methyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-amide (690 mg, 100%) as a brown solid, mp 179-181° C.

reactant | Bromine | 1.61 mmol, 83 μL | BrBr | Br2
reactant | 2-methyl-benzofuran-3-carboxylic acid (6-hydroxy-naphthalen-2-ylmethyl)-amide | 1.62 mmol, 537 mg | OC=1C=C2C=CC(=CC2=CC1)CNC(=O)C1=C(OC2=C1C=CC=C2)C | C21H17NO3
solvent | HOAc | 15 mL | CC(=O)O | C2H4O2
solvent | HOAc | 60 mL | CC(=O)O | C2H4O2
product | 2-methyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-amide | 690 mg, 100% | BrC1=C2C=CC(=CC2=CC=C1O)CNC(=O)C1=C(OC2=C1C=CC=C2)C | C21H16BrNO3
